* C:\Users\jimtr\OneDrive - polymtl\Projet\ELE2003_Table15\LesLTspice\MonCircuit_passe-bande.asc
V1 Vcc 0 15
V2 0 Vee 15
X§U1 N002 Ve1 Vcc Vee Ve1 TL082
C1 N002 0 4.7n
R1 N002 N001 115k
R2 N001 Vin 115k
C2 Ve1 N001 220n
V3 Vin 0 AC 1
C3 N004 P001 220n
C4 N005 N004 220n
R3 Vout N004 39.9Meg
R4 0 N005 1.16Meg
X§U2 N005 Vout Vcc Vee Vout TL082
X§U3 N003 Ve2 Vcc Vee Ve2 TL082
R5 N003 Ve1 103k
R6 0 N003 1k
V4 P001 0 AC 1
.include "C:\Users\jimtr\OneDrive - polymtl\Projet\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301"
.ac dec 100 10 100k
.backanno
.end
