* C:\Users\jimtr\OneDrive - polymtl\Projet\ELE2003_Table15\LesLTspice\MonCircuit_passe-bande.asc
V1 Vcc 0 15
V2 0 Vee 15
X§U1 N002 Ve1 Vcc Vee Ve1 TL082
C1 N002 0 2.2n
R1 N002 N001 1.19k
R2 N001 Vin 1.19k
C2 Ve1 N001 4.4n
V3 Vin 0 AC 1
C3 N004 Ve2 2.2n
C4 N005 N004 2.2n
R3 Vout N004 42
R4 0 N005 56k
X§U2 N005 Vout Vcc Vee Vout TL082
X§U3 N003 Ve2 Vcc Vee Ve2 TL082
R5 N003 Ve1 103k
R6 0 N003 1k
.include "C:\Users\jimtr\OneDrive - polymtl\Projet\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301"
.ac dec 100 10 100k
.backanno
.end
