* C:\Users\pojeu\Desktop\École\A25\ELE2003\ELE2003_Table15\LesLTspice\MonCircuit_passe-bande.asc
* Generated by LTspice 24.1.5 for Windows.
V1 Vcc 0 15
V2 0 Vee 15
X§U1 N002 Ve1 Vcc Vee Ve1 TL082
C1 N002 0 100p
R1 N002 N001 800
R2 N001 Vin 800
C2 Ve1 N001 .22µ
V3 Vin 0 AC 1
C3 N004 Ve2 1n
C4 N005 N004 1n
R3 Vout N004 71
R4 0 N005 80k
X§U2 N005 Vout Vcc2 Vee2 Vout TL082
X§U3 N003 Ve2 Vcc Vee Ve2 TL082
R5 N003 Ve1 12k
R6 0 N003 1k
V4 Vcc2 0 15
V5 0 Vee2 15
.include "C:\Users\pojeu\Desktop\École\A25\ELE2003\ELE2003_Table15\LesLTspice\TL082.lib\TL082.301"
.ac dec 100 10 100k
.backanno
.end
